US07723369B2
4-{2-(4-Bromo-benzyl)-1-[4-(methoxycarbonylmethyl-amino)-phenyl]-1H-imidazol-4-yl}-benzoic acid methyl ester (2.7 g, 5 mmol) was coupled with 4-cyclohexyl-phenylboronic acid (1.25 g, 6.0 mmol) according to general procedure G to give 4-{2-(4′-cyclohexyl-biphenyl-4-ylmethyl)-1-[4-(methoxycarbonylmethyl-amino)-phenyl]-1H-imidazol-4-yl}-benzoic acid methyl ester.

reactant | 4-{2-(4-Bromo-benzyl)-1-[4-(methoxycarbonylmethyl-amino)-phenyl]-1H-imidazol-4-yl}-benzoic acid methyl ester | 5 mmol, 2.7 g | COC(C1=CC=C(C=C1)C=1N=C(N(C1)C1=CC=C(C=C1)NCC(=O)OC)CC1=CC=C(C=C1)Br)=O | C27H24BrN3O4
reactant | 4-cyclohexyl-phenylboronic acid | 6.0 mmol, 1.25 g | C1(CCCCC1)C1=CC=C(C=C1)B(O)O | C12H17BO2
product | 4-{2-(4′-cyclohexyl-biphenyl-4-ylmethyl)-1-[4-(methoxycarbonylmethyl-amino)-phenyl]-1H-imidazol-4-yl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=1N=C(N(C1)C1=CC=C(C=C1)NCC(=O)OC)CC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCCCC1)=O | C39H39N3O4
